US07642277B2
c) trans-5-{{{2-(2-Chlorophenyl)cyclopropyl}methyl}thio}-1-(1-naphthalenyl)-1H-tetrazole
DIAD (87 μL, 0.44 mmol) was added dropwise to a solution of 1,2-dihydro-1-(1-naphthalenyl)-5H-tetrazole-5-thione (84.0 mg, 0.37 mmol), trans-2-(2-chlorophenyl)cyclopropanemethanol (80.5 mg, 0.44 mmol), and PPh3 (116 mg, 0.44 mmol) in THF (10 mL) at room temperature. The reaction mixture was stirred at room temperature for 2 h then was concentrated under reduced pressure. The residue was purified by flash chromatography (CH2Cl2:(CH3)2CO, 95:5) to give the title compound (81 mg, 56% yield) as a white solid.

reactant | DIAD | 0.44 mmol, 87 μL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | 1,2-dihydro-1-(1-naphthalenyl)-5H-tetrazole-5-thione | 0.37 mmol, 84.0 mg | C1(=CC=CC2=CC=CC=C12)N1NN=NC1=S | C11H8N4S
reactant | trans-2-(2-chlorophenyl)cyclopropanemethanol | 0.44 mmol, 80.5 mg | ClC1=C(C=CC=C1)[C@H]1[C@@H](C1)CO | C10H11ClO
reactant | PPh3 | 0.44 mmol, 116 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | trans-5-{{{2-(2-Chlorophenyl)cyclopropyl}methyl}thio}-1-(1-naphthalenyl)-1H-tetrazole | 81 mg, 56% yield | ClC1=C(C=CC=C1)[C@H]1[C@@H](C1)CSC1=NN=NN1C1=CC=CC2=CC=CC=C12 | C21H17ClN4S
